US06498170B2
Azetidin-3-yl-benzyl-carbamic acid tert-butyl ester
To a solution of (1-Benzhydryl-azetidin-3-yl)-benzyl-carbamic acid tert-butyl ester (0.43 g, 1 mmol) in a mixture of methanol (18 ml) and dichloromethane (2 ml) was added ammonium formate (1.3 g, 20 mmol), and 0.15 g of 10% Pd/C. The mixture was stirred at reflux for 18 h. After cooling to room temperature, it was filtered through Celite. The solvents were evaporated, and the residue was washed with hexanes and then extracted with dichloromethane. The dichloromethane solution was evaporated to give 0.24 g of a white solid; m.p. 144-145° C.; MS (ES) m/z 263.0 (MH+).

reactant | (1-Benzhydryl-azetidin-3-yl)-benzyl-carbamic acid tert-butyl ester | 1 mmol, 0.43 g | C(C)(C)(C)OC(N(CC1=CC=CC=C1)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H32N2O2
reactant | ammonium formate | 20 mmol, 1.3 g | C(=O)[O-].[NH4+]
solvent | methanol | 18 ml | CO | CH4O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | Azetidin-3-yl-benzyl-carbamic acid tert-butyl ester | 0.24 g | C(C)(C)(C)OC(N(CC1=CC=CC=C1)C1CNC1)=O | C15H22N2O2
